* SPICE netlist for the schematic
* Node Definitions:
* 1: r_pi2 to g_m2 v_pi2 node
* 2: r_pi2 to voltage source node
* 3: positive supply rail
* 4: r_o2 to ground
* 5: g_m2 v_pi2 to i_t node
* 6: node for control voltage v_pi2
* 7: between r_pi2 and i_t
I1 3 5 DC 0
V1 6 9 DC v3
? Missing component
R2 5 4 r_o2
R3 1 0 1/g_m1
G1 5 1 6 0 g_m2
